US06617326B2
4-Fluoro-3′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]-biphenyl-2-carbonitrile
4- Fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile was coupled to 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)-propan-2-ol in 32% yield using a similar procedure to that described in Example C, step f, to give a yellow solid: mp 175° C.; 1H NMR (360 MHz, CDCl3) δ 1.71 (6H, s), 3.25 (1H, br s), 7.41-7.67 (5H, m), 8.01 (1H, m), 8.24 (1H, s), 8.31 (1H, s), 8.78 (1H, s); MS (ES+) m/z 374 [M+H]+. Anal. Found: C, 67.38; H, 4.27; N, 18.51%. Required for C21H16FN5O: C, 67.55; H, 4.32; N, 18.76%.

reactant | 4- Fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C#N | C19H19BFNO2
reactant | 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)-propan-2-ol | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
product | 4-Fluoro-3′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]-biphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=CC(=CC=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O)C#N | C21H16FN5O
